US04673676
To a solution of ethyl 10-amino-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (600 mg) in pyridine (60 ml) was added phenyl isocyanate (0.22 ml) at ice bath temperature. The reaction mixture was allowed to stir overnight at room temperature. The precipitate was collected, washed with methanol and dried. Recrystallization from dimethyl sulfoxide gave ethyl 10-(3-phenylureido)-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (0.58 g).

reactant | ethyl 10-amino-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 600 mg | NC1=CC=C2C(=CN3C(C2=C1)=NC=C(C3=O)C(=O)OCC)C | C16H15N3O3
reactant | phenyl isocyanate | 0.22 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 10-(3-phenylureido)-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 0.58 g | C1(=CC=CC=C1)NC(NC1=CC=C2C(=CN3C(C2=C1)=NC=C(C3=O)C(=O)OCC)C)=O | C23H20N4O4
